US07648985B2
Bromine (68.7 ml, 1.339 mol) dissolved in acetic acid (300 ml) was added drop by drop to a cooled solution of 2-fluorophenol (150 g, 1.339 mol) in acetic acid (1300 ml) and the reaction mixture was stirred at room temperature overnight. The reaction mixture was quenched with aq. sodium bisulfite solution and extracted with dichloromethane. The organic layer was washed with water and brine and dried over sodium sulfate. Solvent evaporation under reduced pressure afforded 4-bromo-2-fluorophenol (210 g) as a liquid. This was directly taken for next step without further purification.

reactant | Bromine | 1.339 mol, 68.7 ml | BrBr | Br2
reactant | 2-fluorophenol | 1.339 mol, 150 g | FC1=C(C=CC=C1)O | C6H5FO
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1300 ml | C(C)(=O)O | C2H4O2
product | 4-bromo-2-fluorophenol | 210 g | BrC1=CC(=C(C=C1)O)F | C6H4BrFO
